US06699910B2
2,12-Dimethyl-7-oxo-2,12-di-p-tolyl-tridecanedioic acid diethyl ester (9.0 g, 17.24 mmol) was added to a homogenous solution of KOH (85%, 4.0 g, 60.34 mmol) in water (10 mL) and ethanol (30 mL). The reaction mixture was heated to reflux for 6 h. The ethanol was removed under reduced pressure. The residue was diluted with water (30 mL) and the solution was acidified with concd. HCl (12 mL) to pH 1, then extracted with CH2Cl2 (3×80 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, concentrated, and purified by flash chromatography (silica gel, ethyl acetate/hexanes=1/20, 1/10, 1/2) to furnish 2,12-dimethyl-7-oxo-2,12-di-p-tolyl-tridecanedioic acid (3.1 g, 38.8%) as a white solid. Mp.: 48-50° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 9.69 (br, 2H), 7.22 (d, 4H, J=8.1), 7.12 (d, 4H, J=8.1), 2.36 (t, J=7.5 Hz, 4H), 2.31 (s, 6H), 1.98-1.80 (m, 4H), 1.56-1.44 (m, 4H), 1.51 (s, 6H), 1.24-1.15 (m, 4H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 211.63, 183.07, 140.40, 137.00, 129.58, 126.43, 50.02, 42.82, 39.10, 24.74, 24.50, 22.82, 21.39. HRMS (LSIMS, nba): Calcd. for C29H39O5 (MH+): 467.2797, found: 467.2785.

reactant | 2,12-Dimethyl-7-oxo-2,12-di-p-tolyl-tridecanedioic acid diethyl ester | 17.24 mmol, 9.0 g | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C1=CC=C(C=C1)C)C)=O)(C1=CC=C(C=C1)C)C)=O | C33H46O5
reactant | KOH | 60.34 mmol, 4.0 g | [OH-].[K+]
solvent | water | 10 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2,12-dimethyl-7-oxo-2,12-di-p-tolyl-tridecanedioic acid | 3.1 g, 38.8% | CC(C(=O)O)(CCCCC(CCCCC(C(=O)O)(C1=CC=C(C=C1)C)C)=O)C1=CC=C(C=C1)C | C29H38O5
